US05206418
A solution of 1.94 g of 4-chlorophenylsulfonyl chloride in 20 ml of ethyl acetate is added to a mixture of 30 ml of ethyl acetate, 20 ml of water, 3.46 g of potassium carbonate and 2.25 g of ethyl 6-amino-5,6,7,8-tetrahydronaphthalene-2-acetate hydrochloride under stirring at room temperature. After the mixture is stirred at room temperature for 45 minutes, the organic layer is separated therefrom, washed, dried and evaporated to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform) to give 2.84 g of ethyl 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetate as oil.

reactant | 4-chlorophenylsulfonyl chloride | 1.94 g | ClC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4Cl2O2S
reactant | water | 20 ml | O | H2O
reactant | potassium carbonate | 3.46 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 6-amino-5,6,7,8-tetrahydronaphthalene-2-acetate hydrochloride | 2.25 g | Cl.NC1CC=2C=CC(=CC2CC1)CC(=O)OCC
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | ethyl 6-(4-chlorophenyl)sulfonylamino-5,6,7,8-tetrahydronaphthalene-2-acetate | 2.84 g, Yield 83% | ClC1=CC=C(C=C1)S(=O)(=O)NC1CC=2C=CC(=CC2CC1)CC(=O)OCC | C20H22ClNO4S
